*$
********************************************************************************
* ON Semiconductor Schottky Rectifier diode FSV15150V Model Library
* Last Update: July 22, 2017
* Model Version: 1.00
* Simulator: Pspice 17.2
*
********************************************************************************
* Model Contacts:
*    James Victory     James.Victory@onsemi.com
*    Jie Bai           jie.bai@onsemi.com
*
********************************************************************************
* Reversion History:
*	Vers.	Date		Brief Description
*	1.00	07/22/2016	Model is based on datasheet
*
********************************************************************************
.subckt FSV15150V 1 2 3
+ params: area=1  
r1 1 A 1e-5
r2 2 A 1e-5  
d1 A 3 dsky {area}
.model dsky d  
+ is=1.171E-06 rs=0.01926 n=1.182  
+ eg=0.7417 ikf=0.2597 
+ isr=3.179E-07 nr=1.5 
+ cjo=3.802E-09 vj=0.9 m=0.8953  
+ fc=0.5 tt=1E-09 
+ trs1=0.0237 trs2=0  
+ xti=0.2392 tikf=0.03238 
+ bv=150 ibv=0.0008 ibvl=1 
+ nbv=1 nbvl=1  
.ends FSV15150V

